US06458817B1
5-[(2S)oxiranylmethoxy]-1,3-benzodioxole
A mixture of sesamol (2.49 g, 18.02 mmol), potassium carbonate (2.74 g, 19.83 mmol) and (2S)-(+)-glycidyl-3-nitrobenzenesulfonate (4.67 g, 18.02 mmol) in 2-butanone (50 mL) was heated to reflux for 18 h. To the cooled reaction mixture was added 35 mL of ethyl acetate and the solids were remove by vacuum filtration. The filtrate was evaporated in vacuo and the residue was taken up into ethyl acetate (65 mL). The solution was washed with aqueous sodium bicarbonate (2×), and water (2×), dried (Na2SO4), filtered and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 50% diethyl ether/hexane) to leave 2.01 g of the title compound.

reactant | sesamol | 18.02 mmol, 2.49 g | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | potassium carbonate | 19.83 mmol, 2.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2S)-(+)-glycidyl-3-nitrobenzenesulfonate | 18.02 mmol, 4.67 g | C1[C@H](O1)COS(=O)(=O)C2=CC=CC(=C2)[N+](=O)[O-] | C9H9NO6S
reactant | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
solvent | 2-butanone | 50 mL | CC(CC)=O | C4H8O
product | 5-[(2S)oxiranylmethoxy]-1,3-benzodioxole | 2.01 g | O1[C@@H](C1)COC1=CC2=C(OCO2)C=C1 | C10H10O4
